US04604390
N-[2-(Phenylmethoxy)ethyl]-N-(phenylmethyl)glycine, hydrobromide
A mixture of 13.8 g of bromoacetic acid, 200 ml of acetonitrile, 19.0 ml. of N,N-diisopropylethylamine, anmd 26.3 g of N,O-dibenzylethanolamine was heated for 24 hours under reflux. An additional portion of bromoacetic acid (3.5 g) was added, and heating continued for an additional 24 hours. Refrigeration of the resulting mixture caused the precipitation of the title compound as white needles of mp 115°-117° C. after recrystallization from ethyl acetate.

reactant | bromoacetic acid | 13.8 g | BrCC(=O)O | C2H3BrO2
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,O-dibenzylethanolamine | 26.3 g | C(C1=CC=CC=C1)NCCOCC1=CC=CC=C1 | C16H19NO
reactant | bromoacetic acid | 3.5 g | BrCC(=O)O | C2H3BrO2
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | N-[2-(Phenylmethoxy)ethyl]-N-(phenylmethyl)glycine, hydrobromide | Br.C1(=CC=CC=C1)COCCN(CC(=O)O)CC1=CC=CC=C1 | InChI=1S/C18H21NO3.BrH/c20-18(21)14-19(13-16-7-3-1-4-8-16)11-12-22-15-17-9-5-2-6-10-17;/h1-10H,11-15H2,(H,20,21);1H
